US04826832
2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-(6-methylnicotinoylthio)-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester
0.415 g of the silver salt of 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-mercapto-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester and 0.18 g of 6-methylnicotinoyl chloride hydrochloride are converted into the title compound analogously to Example 1.

reactant | 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-mercapto-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1S)[C@@H](C)OC(=O)OCC=C)=O)=O | C32H32NO6PS
reactant | 6-methylnicotinoyl chloride hydrochloride | 0.18 g | Cl.CC1=NC=C(C(=O)Cl)C=C1
catalyst | silver | 0.415 g | [Ag] | Ag
product | 2-[(3S,4R)-3-[(1R)-1-allyloxycarbonyloxyethyl]-4-(6-methylnicotinoylthio)-2-oxo-azetidin-1-yl]-2-triphenylphosphoranylideneacetic acid allyl ester | C(C=C)OC(C(=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C([C@@H]([C@H]1SC(C1=CN=C(C=C1)C)=O)[C@@H](C)OC(=O)OCC=C)=O)=O | C39H37N2O7PS
